************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_DSP
* Top Cell Name: 11FA_v1
* View Name:     schematic
* Netlisted on:  Dec 15 23:14:10 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113Lab2
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND VDD VOUT
*.PININFO A:I B:I VOUT:O GND:B VDD:B
MPM1 VOUT B VDD VDD p18 W=440n L=180n m=1
MPM0 VOUT A VDD VDD p18 W=440n L=180n m=1
MNM1 net17 B GND GND n18 W=220n L=180n m=1
MNM0 VOUT A net17 GND n18 W=220n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
XI3 net16 net9 GND VDD Y / NAND
XI2 A B GND VDD net14 / NAND
XI1 net14 B GND VDD net9 / NAND
XI0 A net14 GND VDD net16 / NAND
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=660n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    And_Gate
* View Name:    schematic
************************************************************************

.SUBCKT And_Gate GND VDD VIN_A VIN_B VOUT
*.PININFO VIN_A:I VIN_B:I VOUT:O GND:B VDD:B
MPM1 net16 VIN_B VDD VDD p18 W=440n L=180n m=1
MPM0 net16 VIN_A VDD VDD p18 W=440n L=180n m=1
MNM1 net15 VIN_B GND GND n18 W=220n L=180n m=1
MNM0 net16 VIN_A net15 GND n18 W=220n L=180n m=1
XI0 GND VDD net16 VOUT / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    P_G
* View Name:    schematic
************************************************************************

.SUBCKT P_G A B G GND P VDD
*.PININFO A:I B:I G:O P:O GND:B VDD:B
XI4 A B GND VDD P / XOR
XI1 GND VDD A B G / And_Gate
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    Or_Gate
* View Name:    schematic
************************************************************************

.SUBCKT Or_Gate GND VDD VIN_A VIN_B VOUT
*.PININFO VIN_A:I VIN_B:I VOUT:O GND:B VDD:B
MPM1 net15 VIN_A net016 VDD p18 W=440n L=180n m=1
MPM0 net016 VIN_B VDD VDD p18 W=440n L=180n m=1
MNM1 net15 VIN_B GND GND n18 W=220n L=180n m=1
MNM0 net15 VIN_A GND GND n18 W=220n L=180n m=1
XI1 GND VDD net15 VOUT / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    PG_n
* View Name:    schematic
************************************************************************

.SUBCKT PG_n G0 G1 GND GOUT P0 P1 POUT VDD
*.PININFO G0:I G1:I P0:I P1:I GOUT:O POUT:O GND:B VDD:B
XI1 GND VDD P1 G0 net18 / And_Gate
XI0 GND VDD P0 P1 POUT / And_Gate
XI2 GND VDD net18 G1 GOUT / Or_Gate
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    11_Adder_Tree
* View Name:    schematic
************************************************************************

.SUBCKT 11_Adder_Tree A<10> A<9> A<8> A<7> A<6> A<5> A<4> A<3> A<2> A<1> A<0> 
+ B<10> B<9> B<8> B<7> B<6> B<5> B<4> B<3> B<2> B<1> B<0> CO<10> CO<9> CO<8> 
+ CO<7> CO<6> CO<5> CO<4> CO<3> CO<2> CO<1> CO<0> GND VDD
*.PININFO A<10>:I A<9>:I A<8>:I A<7>:I A<6>:I A<5>:I A<4>:I A<3>:I A<2>:I 
*.PININFO A<1>:I A<0>:I B<10>:I B<9>:I B<8>:I B<7>:I B<6>:I B<5>:I B<4>:I 
*.PININFO B<3>:I B<2>:I B<1>:I B<0>:I CO<10>:O CO<9>:O CO<8>:O CO<7>:O CO<6>:O 
*.PININFO CO<5>:O CO<4>:O CO<3>:O CO<2>:O CO<1>:O CO<0>:O GND:B VDD:B
XI11 A<9> B<9> net26 GND net27 VDD / P_G
XI10 A<10> B<10> net28 GND net29 VDD / P_G
XI9 A<0> B<0> CO<0> GND net31 VDD / P_G
XI8 A<1> B<1> net51 GND net33 VDD / P_G
XI7 A<2> B<2> net34 GND net35 VDD / P_G
XI6 A<3> B<3> net36 GND net37 VDD / P_G
XI5 A<4> B<4> net38 GND net0100 VDD / P_G
XI4 A<5> B<5> net40 GND net41 VDD / P_G
XI3 A<6> B<6> net42 GND net43 VDD / P_G
XI2 A<7> B<7> net44 GND net45 VDD / P_G
XI0 A<8> B<8> net0137 GND net47 VDD / P_G
XI29 CO<7> net094 GND CO<10> net0121 net095 net0128 VDD / PG_n
XI28 CO<7> net068 GND CO<9> net0121 net069 net0130 VDD / PG_n
XI27 CO<7> net0137 GND CO<8> net0121 net47 net0113 VDD / PG_n
XI26 CO<5> net096 GND CO<6> net093 net097 net0119 VDD / PG_n
XI25 CO<3> CO<5> GND CO<7> net0101 net093 net0121 VDD / PG_n
XI24 CO<3> net0114 GND CO<5> net0101 net0116 net093 VDD / PG_n
XI23 net068 net28 GND net094 net069 net29 net095 VDD / PG_n
XI22 net0114 net070 GND net096 net0116 net071 net097 VDD / PG_n
XI21 CO<3> net38 GND CO<4> net0101 net0100 net0103 VDD / PG_n
XI20 CO<1> net074 GND CO<3> net49 net075 net0101 VDD / PG_n
XI18 net0137 net26 GND net068 net47 net27 net069 VDD / PG_n
XI19 CO<1> net34 GND CO<2> net49 net35 net067 VDD / PG_n
XI16 net42 net44 GND net070 net43 net45 net071 VDD / PG_n
XI15 net38 net40 GND net0114 net0100 net41 net0116 VDD / PG_n
XI14 net34 net36 GND net074 net35 net37 net075 VDD / PG_n
XI1 CO<0> net51 GND CO<1> net31 net33 net49 VDD / PG_n
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    Full_Adder_Sum
* View Name:    schematic
************************************************************************

.SUBCKT Full_Adder_Sum A B CI CO_ GND S_ VDD
*.PININFO A:I B:I CI:I CO_:O S_:O GND:B VDD:B
MPM11 CO_ CI net93 VDD p18 W=880n L=180n m=1
MPM10 CO_ A net124 VDD p18 W=880n L=180n m=1
MPM9 net124 B VDD VDD p18 W=880n L=180n m=1
MPM8 net93 B VDD VDD p18 W=880n L=180n m=1
MPM4 net93 A VDD VDD p18 W=880n L=180n m=1
MPM7 S_ CI net127 VDD p18 W=880n L=180n m=1
MPM6 net127 B net128 VDD p18 W=880n L=180n m=1
MPM5 net128 A VDD VDD p18 W=880n L=180n m=1
MPM3 S_ CO_ net104 VDD p18 W=880n L=180n m=1
MPM2 net104 CI VDD VDD p18 W=880n L=180n m=1
MPM1 net104 B VDD VDD p18 W=880n L=180n m=1
MPM0 net104 A VDD VDD p18 W=880n L=180n m=1
MNM11 net90 A GND GND n18 W=440n L=180n m=1
MNM10 net90 B GND GND n18 W=440n L=180n m=1
MNM9 net123 B GND GND n18 W=440n L=180n m=1
MNM8 CO_ CI net90 GND n18 W=440n L=180n m=1
MNM7 CO_ A net123 GND n18 W=440n L=180n m=1
MNM6 net129 B GND GND n18 W=440n L=180n m=1
MNM5 net130 A net129 GND n18 W=440n L=180n m=1
MNM4 S_ CI net130 GND n18 W=440n L=180n m=1
MNM3 net102 CI GND GND n18 W=440n L=180n m=1
MNM2 net102 A GND GND n18 W=440n L=180n m=1
MNM1 net102 B GND GND n18 W=440n L=180n m=1
MNM0 S_ CO_ net102 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    11FA_v1
* View Name:    schematic
************************************************************************

.SUBCKT 11FA_v1 A<10> A<9> A<8> A<7> A<6> A<5> A<4> A<3> A<2> A<1> A<0> B<10> 
+ B<9> B<8> B<7> B<6> B<5> B<4> B<3> B<2> B<1> B<0> CO<10> GND S<10> S<9> S<8> 
+ S<7> S<6> S<5> S<4> S<3> S<2> S<1> S<0> VDD
*.PININFO A<10>:I A<9>:I A<8>:I A<7>:I A<6>:I A<5>:I A<4>:I A<3>:I A<2>:I 
*.PININFO A<1>:I A<0>:I B<10>:I B<9>:I B<8>:I B<7>:I B<6>:I B<5>:I B<4>:I 
*.PININFO B<3>:I B<2>:I B<1>:I B<0>:I CO<10>:O S<10>:O S<9>:O S<8>:O S<7>:O 
*.PININFO S<6>:O S<5>:O S<4>:O S<3>:O S<2>:O S<1>:O S<0>:O GND:B VDD:B
XI0 A<10> A<9> A<8> A<7> A<6> A<5> A<4> A<3> A<2> A<1> A<0> B<10> B<9> B<8> 
+ B<7> B<6> B<5> B<4> B<3> B<2> B<1> B<0> CO<10> CO<9> CO<8> CO<7> CO<6> CO<5> 
+ CO<4> CO<3> CO<2> CO<1> CO<0> GND VDD / 11_Adder_Tree
XI23 A<5> B<5> CO<4> net52 GND net071 VDD / Full_Adder_Sum
XI10 A<10> B<10> CO<9> net58 GND net066 VDD / Full_Adder_Sum
XI9 A<9> B<9> CO<8> net54 GND net067 VDD / Full_Adder_Sum
XI8 A<8> B<8> CO<7> net53 GND net068 VDD / Full_Adder_Sum
XI7 A<7> B<7> CO<6> net55 GND net069 VDD / Full_Adder_Sum
XI6 A<6> B<6> CO<5> net56 GND net070 VDD / Full_Adder_Sum
XI5 A<4> B<4> CO<3> net50 GND net050 VDD / Full_Adder_Sum
XI4 A<3> B<3> CO<2> net51 GND net051 VDD / Full_Adder_Sum
XI3 A<2> B<2> CO<1> net59 GND net049 VDD / Full_Adder_Sum
XI2 A<1> B<1> CO<0> net49 GND net052 VDD / Full_Adder_Sum
XI1 A<0> B<0> GND net57 GND net053 VDD / Full_Adder_Sum
XI35 GND VDD net066 S<10> / inv
XI34 GND VDD net050 S<4> / inv
XI33 GND VDD net067 S<9> / inv
XI32 GND VDD net051 S<3> / inv
XI31 GND VDD net068 S<8> / inv
XI30 GND VDD net049 S<2> / inv
XI29 GND VDD net069 S<7> / inv
XI28 GND VDD net052 S<1> / inv
XI27 GND VDD net070 S<6> / inv
XI26 GND VDD net053 S<0> / inv
XI24 GND VDD net071 S<5> / inv
.ENDS

